US07897607B2
8-(2,4-Dimethylphenyl)-2-methyl-4-(1-propylbutyl)-3,4-dihydro-2H-1,4-benzoxazine
To a solution of 8-(2,4-dimethylphenyl)-2-methyl-4-(1-propylbutyl)-2H-1,4-benzoxazin-3(4H)-one (50 mg, 0.14 mmol) was added dropwise to borane-tetrahydrofuran complex (1M solution in tetrahydrofuran, 1.37 ml, 1.4 mmol) in tetrahydrofuran (2 ml) with ice-cooling. The mixture was refluxed for 24 h and then decomposed at room temperature by dropwise addition of 6N hydrochloric acid (2 ml). The mixture was stirred at 50° C. for 30 min. The acidic solution was made alkaline with excess ammonium hydroxide, and the basic mixture was extracted with ethyl acetate. The extract was washed with brine, dried over magnesium sulfate and concentrated under vacuum. The residue was purified by column chromatography eluting with 1% ethyl acetate/n-hexane to afford 15 mg (31%) of the title compound.

reactant | 8-(2,4-dimethylphenyl)-2-methyl-4-(1-propylbutyl)-2H-1,4-benzoxazin-3(4H)-one | 0.14 mmol, 50 mg | CC1=C(C=CC(=C1)C)C1=CC=CC=2N(C(C(OC21)C)=O)C(CCC)CCC | C24H31NO2
reactant | borane tetrahydrofuran | 1.4 mmol, 1M, 1.37 ml | B.O1CCCC1
reactant | hydrochloric acid | 6N, 2 ml | Cl | ClH
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 8-(2,4-Dimethylphenyl)-2-methyl-4-(1-propylbutyl)-3,4-dihydro-2H-1,4-benzoxazine | 15 mg, 31% | CC1=C(C=CC(=C1)C)C1=CC=CC=2N(CC(OC21)C)C(CCC)CCC | C24H33NO
